US07842830B2
4-(2,2-Dibromo-vinyl)-1,2-bis-dodecyloxy-benzene (JYC-II-003-A).
To a well stirred solution of CBr4 (6.99 g, 21.1 mmol) in dry CH2Cl2 at 0° C. was added PPh3 (11.05 g, 42.1 mmol) and 3,4-bis-dodecyloxy-benzaldehyde (10.0 g, 21.1 mmol). The resulting mixture was stirred for 1 h at ambient temperature. The reaction mixture was solidified during the time. The solid was dissolved in CH2Cl2, washed with H2O, and dried over anhydrous MgSO4. The solvent was removed under reduced pressure to give an off-white solid. The product was further purified by column chromatography (silica gel, hexanes:dichloromethane=2:1 (v/v)) to give a yellowish white solid (11.37 g, 85.6%).

reactant | CBr4 | 21.1 mmol, 6.99 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 42.1 mmol, 11.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3,4-bis-dodecyloxy-benzaldehyde | 21.1 mmol, 10.0 g | C(CCCCCCCCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCCCCCC | C31H54O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2,2-Dibromo-vinyl)-1,2-bis-dodecyloxy-benzene | 11.37 g, 85.6% | BrC(=CC1=CC(=C(C=C1)OCCCCCCCCCCCC)OCCCCCCCCCCCC)Br | C32H54Br2O2
